US06852732B2
Synthesis of 4-(4-carbamoyl-1,2,3,6-tetrahydropyridin-1-yl)-1-(2,4-dichlorophenyl)-2,3,6-trimethyl-1H-pyrrolo[2,3-b]pyridine (Compound 12-01)
In methylene chloride (2.0 mL) was dissolved 4-(4-cyano-1,2,3,6-tetrahydropyridin-1-yl)-1-(2,4-dichlorophenyl)-2,3,6-trimethyl-1H-pyrrolo[2,3-b]pyridine (0.19 g), followed by adding thereto concentrated sulfuric acid (0.5 mL) under ice-cooling, and the resulting mixture was slowly heated to room temperature and then stirred overnight. The reaction mixture was separated with ethyl acetate and a saturated aqueous sodium hydrogencarbonate solution, and the aqueous layer was extracted twice with ethyl acetate. The combined organic layer was dried over anhydrous sodium sulfate and the desiccating agent was filtered off, after which the filtrate was concentrated under reduced pressure. The residue was purified by a silica gel column chromatography (silica gel: Wako Gel (C200), eluent: chloroform-methanol=30:1) and the crystals precipitated were washed with ethyl acetate to obtain the title compound (0.10 g).

reactant | 4-(4-cyano-1,2,3,6-tetrahydropyridin-1-yl)-1-(2,4-dichlorophenyl)-2,3,6-trimethyl-1H-pyrrolo[2,3-b]pyridine | 0.19 g | C(#N)C=1CCN(CC1)C1=C2C(=NC(=C1)C)N(C(=C2C)C)C2=C(C=C(C=C2)Cl)Cl | C22H20Cl2N4
reactant | sulfuric acid | 0.5 mL | S(O)(O)(=O)=O | H2O4S
solvent | methylene chloride | 2.0 mL | C(Cl)Cl | CH2Cl2
product | 4-(4-carbamoyl-1,2,3,6-tetrahydropyridin-1-yl)-1-(2,4-dichlorophenyl)-2,3,6-trimethyl-1H-pyrrolo[2,3-b]pyridine | 0.10 g | C(N)(=O)C=1CCN(CC1)C1=C2C(=NC(=C1)C)N(C(=C2C)C)C2=C(C=C(C=C2)Cl)Cl | C22H22Cl2N4O
